US07855297B2
By the reaction and treatment in the same manner as in Example 271 using 5-benzyloxy-N-(6-isopropylpyridin-3-yl)-N-[(pyrazol-4-yl)methyl]-1,2,3,4-tetrahydronaphthalene-1-carboxamide hydrochloride (0.78 g) and 2-chloromethyl-6-methylpyridine (0.43 g) as starting materials, 5-benzyloxy-N-(6-isopropylpyridin-3-yl)-N-({1-[(6-methylpyridin-2-yl)methyl]pyrazol-4-yl}methyl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide (0.75 g) was obtained.

reactant | 5-benzyloxy-N-(6-isopropylpyridin-3-yl)-N-[(pyrazol-4-yl)methyl]-1,2,3,4-tetrahydronaphthalene-1-carboxamide hydrochloride | 0.78 g | Cl.C(C1=CC=CC=C1)OC1=C2CCCC(C2=CC=C1)C(=O)N(CC=1C=NNC1)C=1C=NC(=CC1)C(C)C
reactant | 2-chloromethyl-6-methylpyridine | 0.43 g | ClCC1=NC(=CC=C1)C | C7H8ClN
product | 5-benzyloxy-N-(6-isopropylpyridin-3-yl)-N-({1-[(6-methylpyridin-2-yl)methyl]pyrazol-4-yl}methyl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 0.75 g | C(C1=CC=CC=C1)OC1=C2CCCC(C2=CC=C1)C(=O)N(CC=1C=NN(C1)CC1=NC(=CC=C1)C)C=1C=NC(=CC1)C(C)C | C37H39N5O2
